Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
rhabdo, psychosis (___)
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y/o M w/ rhabdomyolysis, schizoaffective disorder with h/o 
psychotic breaks who had been hospitalized at ___ for 
treatment of rhabdomyolysis but eloped before treatment was 
complete on ___.  He states he walked home to ___ and 
then walked back to ___ to go back to his hospital room.  He 
was triaged in the ER and admitted to the general medical floor 
for continued care and monitoring of rhabdomyolysis as well as 
treatment of psychosis.  On prior hospitalization (over past few 
days prior to re-presentation) also noted to have mild 
transaminitis, chronicity unknown, no abd pain, no elevation of 
bili, normal hepatitis serologies. 

CK on admission ___ decreased to 1715. He states that he 
walked many miles today from hospital to home and back.  Denies 
pain. 

On arrival to floor, patient refuses to answer questions, 
confirm history or be examined. "it's against my religion to 
have vitals taken".

ROS: unobtainable though specifically denies pain, chest pain, 
sob.
 
Past Medical History:
schizo-affective disorder 
bipolar disorder 
 
Social History:
___
Family History:
Unknown
 
Physical Exam:
T 98.4 HR 80 BP 130/80
Agitated, legs twitching sporadically
PERRLA, EOMI
Pt not allowing heart, lung, abdominal exam
___ w/o edema
CN ___ intact, pt not allowing strength exam or muscle 
palpation, but walking around easily, no apparent pain
 
Brief Hospital Course:
A/P: ___ year old male found down ___, presenting with rhabdo 
and anion gap metabolic acidosis, psychotic features, who 
returns to ER after escaping from hospital this morning. 

# Rhabdomyolysis: Initiating event found down last week.  On 
re-admission ___ his CK was markedly improved from its 
maximum over the past week, but mildly elevated from the day 
prior.  This mild trend up continued for the next ___ hours, and 
it was felt that this was in part due to the long walk he had 
made on the day prior, as well as possible muscle breakdown from 
his aggitation on ___ night which required physical restraints.  
As of ___, he has been calm without aggitation or restraints 
since ___ morning.  His CKs are low and normalizing well.  There 
are no complications from the rhabdomyolysis, i.e. there is no 
hyperkalemia or renal failure.  Treatment involved only liberal 
fluid and food intake, with which the pt was very cooperative. 
There is no need to recheck labs.

# Psychosis:  Ongoing paranoid ideations and hyperreligious 
speech.  Recent head CT negative. Serum/Urine tox negative. 
Patient is ___. Needed 1:1  security sitter. Zyprexa 30mg 
PO given daily (refused ___.  Only acutely aggitated episode 
was ___ night requiring haldol/ativan and physical restraints.
 

  
# Transaminitis: Pt has a normal GGT which indicates that the 
transaminitis is not a marker of any liver abnormalities, but is 
actually representative of enzyme leak from the muscles.  
Hepatitis serologies were checked last hospitalization when this 
was not clear and were negative. 

 
Discharge Medications:
1. Haloperidol Lactate 5 mg/mL Solution Sig: Five (5) mg 
Injection Q4H (every 4 hours) as needed for agitation.  
2. Lorazepam 2 mg/mL Syringe Sig: One (1) mg Injection Q4HRS () 
as needed for agitation.  
3. Benztropine 1 mg/mL Solution Sig: One (1) mg Injection every 
four (4) hours as needed for give when haldol administered.  
4. Olanzapine 10 mg Tablet, Rapid Dissolve Sig: Three (3) 
Tablet, Rapid Dissolve PO DAILY (Daily).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
rhabdomyolysis
schizoaffective d/o

 
Discharge Condition:
stable

 
Discharge Instructions:
Please be sure to drink plenty of water and eat well, this will 
help with the muscle breakdown you sustained.  Please notify an 
MD or return to ___ with SOB, muscle aches, palpitations, chest 
pain, or other concerning symptoms.
 
Followup Instructions:
___